### PR TITLE
feat: BitVec.BV_ADD_NEG_MUL

### PR DESCRIPTION
**Pull request by bollu**
This PR implements the Bitwuzla rewrites [BV_ADD_NEG_MUL](), and associated lemmas to make the proof streamlined.  ```bvneg (bvadd a (bvmul a b)) = (bvmul a (bvnot b))```, or spelled as lean:

```lean
theorem neg_add_mul_eq_mul_not {x y : BitVec w} :
    - (x + x * y) = (x * ~~~ y)
```

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3237,6 +3245,14 @@ protected theorem neg_mul_neg (x y : BitVec w) : -x * -y = x * y := by simp
 
 protected theorem neg_mul_comm (x y : BitVec w) : -x * y = x * -y := by simp
 
+theorem neg_add_mul_eq_mul_not {x y : BitVec w} :
+    - (x + x * y) = x * ~~~ y := by
+  rw [neg_add , sub_toAdd, ← BitVec.mul_neg
+    , neg_eq_not_add y , mul_add
+    , BitVec.mul_one , BitVec.add_comm, BitVec.add_assoc
+    , BitVec.add_right_eq_self
+    , add_neg_eq_sub, BitVec.sub_self]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3254]: The synax
```suggestion
  rw [neg_add, sub_toAdd, ← BitVec.mul_neg, neg_eq_not_add y, mul_add, BitVec.mul_one,
    BitVec.add_comm, BitVec.add_assoc, BitVec.add_right_eq_self, add_neg_eq_sub, BitVec.sub_self]
```

Also, is the `BitVec` prefix needed here everywhere?

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3254]: Yes, as the theorems are `protected`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -3069,6 +3069,14 @@ theorem not_neg (x : BitVec w) : ~~~(-x) = x + -1#w := by
         show (_ - x.toNat) % _ = _ by rw [Nat.mod_eq_of_lt (by omega)]]
       omega
 
+theorem neg_add {x y : BitVec w} : - (x + y) = - x - y := by
+ apply eq_of_toInt_eq
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:3073]: is indentation correct? seems smaller than the others

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:3073]: Thanks, it was indeed shorter than usual!
